US06072088
The vinyl methyl ether, 3-methoxy-1,1,1,5,5,5-hexafluoropent-2-ene, (21.3 g, 102 mmol) was added to 20 mL (36 g) concentrated H2SO4 at 15-20° C. over 15 min Stirring was continued for 10 min. and the reaction mixture poured into 100 mL cold water. The product was extracted with 2×40 mL ether. The combined extracts were washed with brine, dried (Na2SO4) and distilled to give 15.3 g (77% yield) of 1,1,1,5,5,5-hexafluoropentan-3-one, bp 122-123° C.

reactant | vinyl methyl ether | COC=C | C3H6O
reactant | 3-methoxy-1,1,1,5,5,5-hexafluoropent-2-ene | 102 mmol, 21.3 g | COC(=CC(F)(F)F)CC(F)(F)F | C6H6F6O
reactant | H2SO4 | 20 mL, 36 g | OS(=O)(=O)O | H2O4S
solvent | water | 100 mL | O | H2O
product | 1,1,1,5,5,5-hexafluoropentan-3-one | 15.3 g, 77% yield | FC(CC(CC(F)(F)F)=O)(F)F | C5H4F6O
